US04611010
2-(2,2-dichlorovinyl)-benzyl 2-(4-chlorophenyl)-isovalerate
2.8 g (0.012 mole) of 2-(4-chlorophenyl)-isovaleryl chloride in 50 ml of absolute toluene are introduced into 1.2 g (0.013 mole) of -picoline and 3.2 g (0.015 mole) of 2-(2,2-dichlorovinyl)-benzaldehyde in a conical flask at room temperature, while stirring. After 30 minutes, the mixture is filtered under suction over silica gel, and washing is carried out with toluene.

reactant | 2-(4-chlorophenyl)-isovaleryl chloride | 0.012 mole, 2.8 g | ClC1=CC=C(C=C1)C(C(=O)Cl)C(C)C | C11H12Cl2O
reactant | picoline | N1=C(C=CC=C1)C | C6H7N
reactant | 2-(2,2-dichlorovinyl)-benzaldehyde | 0.015 mole, 3.2 g | ClC(=CC1=C(C=O)C=CC=C1)Cl | C9H6Cl2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,2-dichlorovinyl)-benzyl 2-(4-chlorophenyl)-isovalerate | ClC1=CC=C(C=C1)C(C(=O)OCC1=C(C=CC=C1)C=C(Cl)Cl)C(C)C | C20H19Cl3O2
